US05936051
2) Preparation of 4-fluorobenzylcyclopentadienyl lithium
7 g of 4-fluorobenzylcyclopentadiene (40 mmoles) and 50 ml of hexane are charged, in an argon atmosphere, into a tailed test-tube equipped with magnetic stirring. The solution is cooled to 0° C. and 16 ml of a 2.4M solution of butyllithium in hexane are added. The temperature is then allowed to rise to room temperature and the mixture is left under stirring for a night. A precipitate is formed which is filtered, washed twice with 10 ml of hexane and finally dried. 6.5 g of the desired salt are obtained with a yield of 90%.

reactant | 4-fluorobenzylcyclopentadiene | 40 mmoles, 7 g | FC1=CC=C(CC2=CC=CC2)C=C1 | C12H11F
reactant | butyllithium | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 4-fluorobenzylcyclopentadienyl lithium | 6.5 g, yield of 90% | FC1=CC=C(CC2(C=CC=C2)[Li])C=C1 | InChI=1S/C12H10F.Li/c13-12-7-5-11(6-8-12)9-10-3-1-2-4-10;/h1-8H,9H2;
